US06340759B1
(143-1) 5-Bromo-2-[3-(2-propoxy)-1-propenyl]pyridine
5-Bromo-2-(3-hydroxy-1-propenyl)pyridine (8.891 g) was dissolved in tetrahydrofuran (200 ml), followed by the sequential addition of triethylamine (17.6 ml) and methanesulfonyl chloride (3.9 ml) under ice-cooling, and the mixture was stirred for 20 min. After the resulting insoluble matters were filtered off, the solution was evaporated. The resulting residue was dissolved in 2-propanol (100 ml), sodium 2-propanoxide/2-propanol solution prepared from 60% sodium hydride (2 g) and 2-propanol (70 ml) was added thereto under ice-cooling, and the resulting mixture was stirred, as it was, at room temperature for 30 min. After the resulting insoluble matters were filtered off from the reaction mixture, the resulting solution was evaporated and partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a brown oil (3.519 g, yield; 33%).

reactant | 5-Bromo-2-(3-hydroxy-1-propenyl)pyridine | 8.891 g | BrC=1C=CC(=NC1)C=CCO | C8H8BrNO
reactant | triethylamine | 17.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2-[3-(2-propoxy)-1-propenyl]pyridine | 3.519 g, yield; 33% | BrC=1C=CC(=NC1)C=CCOC(C)C | C11H14BrNO
